US07678815B2
2-Methyl-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid (6-hydroxymethyl-pyridin-2-yl)-amide
A solution of acetic acid 6-{[2-methyl-5-(pyridin-3-ylamino)-thiazole-4-carbonyl]-amino}-pyridin-2-ylmethyl ester (0.046 g, 0.12 mmol) in methanol (20.00 ml) was treated with a 2N solution of NaOH in water (1.00 ml, 2.00 mmol). After 15 min stirring at room temperature, the mixture was acidified with HCl 2N, and the solvents removed. The residue was purified by flash chromatography (dichloromethane/methanol) to yield the title compound (0.035 g, 85%) as a light yellow solid, MS (ISP): m/e=342.1 (M+H+).

reactant | acetic acid 6-{[2-methyl-5-(pyridin-3-ylamino)-thiazole-4-carbonyl]-amino}-pyridin-2-ylmethyl ester | 0.12 mmol, 0.046 g | CC=1SC(=C(N1)C(=O)NC1=CC=CC(=N1)COC(C)=O)NC=1C=NC=CC1 | C18H17N5O3S
reactant | NaOH | [OH-].[Na+]
reactant | water | 2.00 mmol, 1.00 ml | O | H2O
reactant | HCl | 2N | Cl | ClH
solvent | methanol | 20.00 ml | CO | CH4O
product | 2-Methyl-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid (6-hydroxymethyl-pyridin-2-yl)-amide | 0.035 g, 85% | OCC1=CC=CC(=N1)NC(=O)C=1N=C(SC1NC=1C=NC=CC1)C | C16H15N5O2S
